US05374643
B. 4-(1,2,4-oxadiazol-5-yl)phenylcarbamic acid, 4-nitrophenyl ester
A solution of 4-aminophenyl oxadiazole (0.97 g, 0.006 mol, compound of part A) in acetonitrile (25 mL)/DMF (2 mL) and pyridine (0.50 mL, 0.48 g, 0.006 mol) under argon at 0° C. was treated with p-nitrophenyl chloroformate (1.21 g, 0.006 mol) and was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and an effort was made to partition the remaining oil between ethyl acetate and 10% citric acid, resulting in separation of a solid insoluble in either phase. The solid was collected and triturated with anhydrous ether and dried in vacuo to yield 1.67 g of the title compound, m.p. 210°-212° C. TLC, silica gel, EtOAc/hexanes (2:1), Rf =0.58; M.S. (M+H)+ at 327, M.W. 326. This compound contained minor impurities and was used without further purification.

reactant | 4-aminophenyl oxadiazole | NC1=CC=C(C=C1)C=1N=NOC1 | C8H7N3O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | pyridine | 0.006 mol, 0.50 mL, 0.48 g | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.006 mol, 1.21 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-(1,2,4-oxadiazol-5-yl)phenylcarbamic acid, 4-nitrophenyl ester | 1.67 g | O1N=CN=C1C1=CC=C(C=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H10N4O5
